US04933355
2-p-Fluoroanilinothiazol-4-ylmethanol
The reaction described in Preparation 50 was repeated, but using 12.04 g of ethyl 2-p-fluoroanilinothiazole-4-carboxylate, 6 g of sodium borohydride, 120 ml of anhydrous tetrahydrofuran, and 70 ml of absolute methanol, giving the title compound as colorless prisms.

reactant | ethyl 2-p-fluoroanilinothiazole-4-carboxylate | 12.04 g | FC1=CC=C(NC=2SC=C(N2)C(=O)OCC)C=C1 | C12H11FN2O2S
reactant | sodium borohydride | 6 g | [BH4-].[Na+]
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | methanol | 70 ml | CO | CH4O
product | 2-p-Fluoroanilinothiazol-4-ylmethanol | FC1=CC=C(NC=2SC=C(N2)CO)C=C1 | C10H9FN2OS
